US09278131B2
The salt (S)-(−)-2-amino-3-phenyl-1-propanol hydrochloride (RV 4) was obtained by dissolving (S)-(−)-2-amino-3-phenyl-1-propanol, obtained from Sigma-Aldrich (Aldrich ref. 190438, CAS#3182-95-4) in Milli-Q® water and by adding hydrochloric acid (HCl) so as to obtain a 992 mM solution of the (S)-(−)-2-amino-3-phenyl-1-propanol hydrochloride salt.

reactant | (S)-(−)-2-amino-3-phenyl-1-propanol | N[C@H](CO)CC1=CC=CC=C1 | C9H13NO
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | (S)-(−)-2-amino-3-phenyl-1-propanol hydrochloride salt | Cl.N[C@H](CO)CC1=CC=CC=C1 | InChI=1S/C9H13NO.ClH/c10-9(7-11)6-8-4-2-1-3-5-8;/h1-5,9,11H,6-7,10H2;1H/t9-;/m0./s1
